US06979741B2
A mixture of tert-butyl 4-oxo-1-piperidinecarboxylate (10 mmol, 1.99 mmol), azepane (10 mmol, 990 mg) and titanium isopropoxide (12.5 mmol, 3.7 mL) was stirred at room temperature for 50 mins. A solution of sodium cyanoborohydride (7 mmol, 440 mg) in anhydrous ethanol (10 mL) was added and the solution was stirred under nitrogen at ambient temperature for 24 hr. Water (2 mL) was added and the precipitate was removed by filtration through Celite®, rinsing through with ethanol. The solvent was removed under vacuum and the residue purified by chromatography on silica gel eluting with a 5%-10% methanol-dichloromethane gradient to give 4-azepan-1-yl-piperidine-1-carboxylic acid tert-butyl ester (726 mg, 26%).

reactant | tert-butyl 4-oxo-1-piperidinecarboxylate | 10 mmol | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | azepane | 10 mmol, 990 mg | N1CCCCCC1 | C6H13N
reactant | sodium cyanoborohydride | 7 mmol, 440 mg | C(#N)[BH3-].[Na+]
reactant | Water | 2 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | titanium isopropoxide | 12.5 mmol, 3.7 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 4-azepan-1-yl-piperidine-1-carboxylic acid tert-butyl ester | 726 mg, 26% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCCCCC1 | C16H30N2O2
